US04024134
To an ice cold solution of t-butyl 3-acetoxymetyl-7β-aminoceph-3-em-4-carboxylate (1.59 g) and propylene oxide (3.5 mls) in ethyl acetate (15 mls) was added with stirring a 1-M solution of 2-dichloroacetoxyamino-2-(thien-3-yl) acetyl chloride (syn-isomer) (5.3 ml) in ethyl acetate. After 11/2 hrs. at 20° C the solution was washed with 2N-HCl, saturated sodium bicarbonate solution and brine. The organic layer was dried and evapoated to give t-butyl 3-acetoxymethyl-7β-[2-dichloroacetoxyimino-2(thien-3-yl)acetamido]ceph-3-em-4-carboxylate (syn-isomer) as a white foam, (2.8 g, 100%), [α]D + 47.0° (c 0.9, DMSO), λmax. (ethanol) 253 nm (ε 13,900), νmax. (CHBr3) 3580 (OH), 3410 (NH), 1790 (β-lactam), 1728 (OCOCH3), 1720 (COO But) and 1700 and 1520 cm-1 (CONH); τ (CDCl3) values include 2.11 to 2.7 (m; thienyl protons), 7.92 (s; OCOCH3), 8.48 (s; But).

reactant | t-butyl 3-acetoxymetyl-7β-aminoceph-3-em-4-carboxylate | 1.59 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2N)=O | C14H20N2O5S
reactant | propylene oxide | 3.5 mls | C1C(C)O1 | C3H6O
reactant | 2-dichloroacetoxyamino-2-(thien-3-yl) acetyl chloride | 5.3 ml | ClC(C(=O)ONC(C(=O)Cl)C1=CSC=C1)Cl | C8H6Cl3NO3S
solvent | ethyl acetate | 15 mls | C(C)(=O)OCC | C4H8O2
product | t-butyl 3-acetoxymethyl-7β-[2-dichloroacetoxyimino-2(thien-3-yl)acetamido]ceph-3-em-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(C(C2=CSC=C2)=NOC(C(Cl)Cl)=O)=O)=O | C22H23Cl2N3O8S2
